US07407972B2
Step 3: 2-(2′-Methylsulfanyl-3-trifluoromethyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
2-(4-Bromo-2-trifluoromethyl-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.92 g, 4.4 mmol), 2-(methylthio)benzene boronic acid (0.88 g, 5.2 mmol), and tetrabutylammonium bromide (70 mg, 0.22 mmol) were combined in 40 mL toluene, added 4.4 mL of a 2M aqueous Na2CO3 solution followed by tetrakistriphenylphosphine palladium(0) (0.253 g, 0.22 mmol). Heated reaction at reflux 4 hours, cooled, concentrated, redissolved in EtOAc (250 mL), washed with water (3×200 mL), brine (200 mL), dried with MgSO4, filtered, and concentrated. Purified on a silica gel column eluted with 20% EtOAc in hexanes. Combined and concentrated pure fractions to yield title compound. (1.8 g, 85%) APCI (AP−): 479.1 (M−H)−.

reactant | 2-(4-Bromo-2-trifluoromethyl-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.4 mmol, 1.92 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)Br)C(F)(F)F)=O | C17H20BrF3N2O3
reactant | 2-(methylthio)benzene boronic acid | 5.2 mmol, 0.88 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 0.22 mmol, 70 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2′-Methylsulfanyl-3-trifluoromethyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)SC)C(F)(F)F)=O | C24H27F3N2O3S
